US06403639B1
Under argon atmosphere, 77 mg of 5-acetoxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran was dissolved in 1 ml of anhydrous tetrahydrofuran, a solution of 25 mg of lithium aluminium hydride in 2 ml of anhydrous tetrahydrofuran was added, and the solution was stirred at room temperature for a whole day and night. After cooling to 0° C., the reaction was quenched with water and then the reaction mixture was extracted with a 10% aqueous hydrochloric acid solution and ethyl acetate. The organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 1% ethyl acetate) to give 42 mg of 5-hydroxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran as a light red solid (yield 64%).

reactant | 5-acetoxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran | 77 mg | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)C)C1C(C)C)C(C)C | C18H26O3
reactant | lithium aluminium hydride | 25 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-hydroxy-2,2-dimethyl-4,6-diisopropyl-2,3-dihydrobenzofuran | 42 mg, yield 64% | OC=1C(=CC2=C(CC(O2)(C)C)C1C(C)C)C(C)C | C16H24O2
